US08242174B2
(R)-methyl 6-(4-fluoro-3-methylbenzyloxy)-2-aminohexanoate (F6)
To a solution of (R)-methyl 6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoate (0.141 g, 0.453 mmol) in 10 mL of ethyl acetate, Pd on BaSO4 (0.070 g) was added. The mixture was flushed with H2 for 15 min and stirred at room temperature under H2 for 1 h. The reaction mixture was then filtered through a pad of Celite and washed with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was used in the next step without further purification (0.128 g, >99% yield). GC-MS: tR=4.0 min; m/z 283 (M+).

reactant | (R)-methyl 6-(4-fluoro-3-methylbenzyloxy)-2-azidohexanoate | 0.453 mmol, 0.141 g | FC1=C(C=C(COCCCC[C@H](C(=O)OC)N=[N+]=[N-])C=C1)C | C15H20FN3O3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | Pd | [Pd] | Pd
product | (R)-methyl 6-(4-fluoro-3-methylbenzyloxy)-2-aminohexanoate | >99% yield | FC1=C(C=C(COCCCC[C@H](C(=O)OC)N)C=C1)C | C15H22FNO3
